US07470679B2
2-(S)-(2-Acetoxymethyl-4-amino-3-methyl-benzyl)-succinic acid diethyl ester
Trifluoroacetic acid (10 mL) was added to a solution of 2-(S)-(acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-benzyl)-succinic acid diethyl ester (4.6 g, 9.9 mmol) in dichloromethane (40 mL). Reaction mixture was stirred at room temperature for 1.5 hours. Mixture was concentrated in vacuo. Residue was dissolved in dichloromethane (75 mL) and washed successively with saturated aqueous sodium bicarbonate (2×50 mL) and brine (30 mL). Organic was dried (magnesium sulfate), filtered and concentrated in vacuo to yield the desired product in 99% yield as an amber oil. 1H NMR (300 MHz, CDCl3): δ=6.85 (d, J=8.1, 1H), 6.67 (d, J=8.4, 1H), 5.18 (m, 2H), 4.09 (m, 4H), 3.09 (dd, J1=6.2, J2=13.9, 1H), 2.96 (m, 1H), 2.66 (m, 2H), 2.37 (dd, J1=4.6, J2=16.7, 1H), 2.15 (s, 3H), 2.06 (s, 3H), 1.20 (m, 6H). MS m/e (M−C2H4O2+H)+=306.2.

reactant | Trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(S)-(acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-benzyl)-succinic acid diethyl ester | 9.9 mmol, 4.6 g | C(C)OC([C@@H](CC(=O)OCC)C(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)C)COC(C)=O)=O | C24H35NO8
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-(S)-(2-Acetoxymethyl-4-amino-3-methyl-benzyl)-succinic acid diethyl ester | 99% yield | C(C)OC([C@H](CC(=O)OCC)CC1=C(C(=C(C=C1)N)C)COC(C)=O)=O | C19H27NO6
